US08487109B2
1-(5-Phenyl-pent-1-ynyl)-3-trifluoromethyl-benzene
This product was prepared from toluene-4-sulfonic acid 3-trifluoromethyl-phenyl ester and pent-4-ynyl-benzene following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane; yield (140 mg, 97%); 1H NMR δ (CDCl3): 7.66 (s, 1H), 7.61-7.7.49 (m, 2H), 7.46-7.36 (m, 1H), 7.35-7.16 (m, 5H), 2.79 (t, J=7.15 Hz, 2H), 2.43 (t, J=7.20 Hz, 2H), 1.93 (p, J=7.11 Hz, 2H); LCMS m/z: 288.

reactant | toluene-4-sulfonic acid 3-trifluoromethyl-phenyl ester | FC(C=1C=C(C=CC1)OS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C14H11F3O3S
reactant | pent-4-ynyl-benzene | C(CCC#C)C1=CC=CC=C1 | C11H12
solvent | heptane | CCCCCCC | C7H16
product | 1-(5-Phenyl-pent-1-ynyl)-3-trifluoromethyl-benzene | C1(=CC=CC=C1)CCCC#CC1=CC(=CC=C1)C(F)(F)F | C18H15F3
